US04151172
Methyl(dimethoxyphosphinyl)acetate (18.2 g., 0.1 mole) and 1 N sodium hydroxide (100 ml., 0.1 mole) are combined and stirred at room temperature overnight. The reaction mixture is poured onto AG50W-X2 cation exchange resin (200 ml.) and eluted with double distilled water. The acidic fractions are combined and concentrated in vacuo. The residue is dissolved in dichloromethane, dried over magnesium sulfate and concentrated in vacuo to yield 16.8 g. of product, (dimethoxyphosphinyl)acetic acid, yield quantitative.

reactant | Methyl(dimethoxyphosphinyl)acetate | 0.1 mole, 18.2 g | COC(CP(=O)(OC)OC)=O | C5H11O5P
reactant | sodium hydroxide | 0.1 mole, 1 N, 100 ml | [OH-].[Na+]
product | (dimethoxyphosphinyl)acetic acid | COP(=O)(OC)CC(=O)O | C4H9O5P
